US06689780B1
Preparation of N-(5-Chloropyridin-2-yl)-3-[(1-isopropylpiperidin-4-ylcarbonyl)amino]-6-methylpyridine-2-carboxamide Hydrochloride
To a stirring suspension of N-(5-chloropyridin-2-yl)-6-methyl-3-[ (4-piperidinylcarbonyl)amino]pyridine-2-carboxamide trifluoroacetate (0.75 g, 1.54 mmol) in methanol (11 mL) was added acetone (11 mL), followed by acetic acid (0.45 mL, 7.86 mmol), and then sodium cyanoborohydride (0.51 g, 7.7 mmol). After stirring overnight, the solution was treated with saturated aqueous ammonium chloride solution, concentrated, and partitioned between dichloromethane and saturated aqueous sodium bicarbonate. The organic phase was washed with brine, dried over magnesium sulfate, filtered, and concentrated. The crude product was purified by chromatography over silica gel, eluting with a step gradient of 0-10% 2 M solution of ammonia/methanol in dichloromethane. To a stirring solution of the purified product in dichloromethane was added 1.0 N hydrochloric acid in diethyl ether until precipitate formed. The mixture was filtered to give 0.28 g (40%) of a white solid.

reactant | N-(5-chloropyridin-2-yl)-6-methyl-3-[ (4-piperidinylcarbonyl)amino]pyridine-2-carboxamide trifluoroacetate | 1.54 mmol, 0.75 g | FC(C(=O)O)(F)F.ClC=1C=CC(=NC1)NC(=O)C1=NC(=CC=C1NC(=O)C1CCNCC1)C
reactant | acetic acid | 7.86 mmol, 0.45 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 7.7 mmol, 0.51 g | C(#N)[BH3-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 11 mL | CO | CH4O
solvent | acetone | 11 mL | CC(=O)C | C3H6O
product | N-(5-Chloropyridin-2-yl)-3-[(1-isopropylpiperidin-4-ylcarbonyl)amino]-6-methylpyridine-2-carboxamide Hydrochloride | 0.28 g, 40% | Cl.ClC=1C=CC(=NC1)NC(=O)C1=NC(=CC=C1NC(=O)C1CCN(CC1)C(C)C)C | InChI=1S/C21H26ClN5O2.ClH/c1-13(2)27-10-8-15(9-11-27)20(28)25-17-6-4-14(3)24-19(17)21(29)26-18-7-5-16(22)12-23-18;/h4-7,12-13,15H,8-11H2,1-3H3,(H,25,28)(H,23,26,29);1H
